* Sallen-Key Low-Pass Filter

Vin vi 0 PULSE(-1 1 0 20m 1u 1u 20m)

* RC network
R1 vi n1 10k
R2 n1 n2 10k
C1 n2 0 100n IC=0
C2 vo n1 100n IC=0

* Op-amp (ideal voltage-controlled voltage source)
Eop vo 0 n2 n3 1e6

* Feedback network (sets gain > 1 for resonance)
Rf vo n3 8k
Rg n3 0 6k

* Load
Rload vo 0 100k

Escaled vo_scaled 0 value = {V(vo)*0.2} ; netlist_skip

.tran 0 80m 0 20.0u
.wav "vin.wav" 32 48k V(vi)
.wav "vout.wav" 32 48k V(vo_scaled)
.options plotwinsize=0
.end
